US08466282B2
Tert-butyl (3S,5R)-3-[(2-methylpropyl){[3-(2-phenylethyl)imidazo[1,2-a]pyridin-2-yl]carbonyl}amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
Ethyl 3-(2-phenylethyl)imidazo[1,2-a]pyridine-2-carboxylate (883 mg) was dissolved in ethanol (50 ml), 2N aqueous sodium hydroxide solution (3 ml) was added, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated under reduced pressure, neutralized with 1N hydrochloric acid, subjected to DIAION HP-20 (manufactured by Mitsubishi Chemical), and washed with water. The fraction eluted with acetone was concentrated under reduced pressure to give 3-(2-phenylethyl)imidazo[1,2-a]pyridine-2-carboxylic acid (1.03 g). The obtained 3-(2-phenylethyl)imidazo[1,2-a]pyridine-2-carboxylic acid (341 mg), tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (370 mg) and N,N-diisopropylethylamine (862 μl) were dissolved in acetonitrile (20 ml), chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (561 mg) was added and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated, and the residue was diluted with aqueous sodium bicarbonate. The mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue, was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (9:1) was concentrated under reduced pressure to give the object product (522 mg).

reactant | 3-(2-phenylethyl)imidazo[1,2-a]pyridine-2-carboxylic acid | 341 mg | C1(=CC=CC=C1)CCC1=C(N=C2N1C=CC=C2)C(=O)O | C16H14N2O2
reactant | tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 370 mg | CC(CN[C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C | C19H35N3O4
reactant | N,N-diisopropylethylamine | 862 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate | 561 mg | F[P-](F)(F)(F)(F)F.ClC(=[N+](C)C)N(C)C
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Tert-butyl (3S,5R)-3-[(2-methylpropyl){[3-(2-phenylethyl)imidazo[1,2-a]pyridin-2-yl]carbonyl}amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 522 mg | CC(CN([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C(=O)C=1N=C2N(C=CC=C2)C1CCC1=CC=CC=C1)C | C35H47N5O5
